US08309580B2
3-[{[4-({1-[5-(4-fluoro-2-methylphenyl)-2-(methoxymethyl)furan-3-yl]-3-methylbutyl}amino)phenyl]carbonyl}(methyl)amino]propanoic acid
A mixture of 3-(1-chloro-3-methylbutyl)-5-(4-fluoro-2-methylphenyl)-2-(methoxymethyl)furan (487 mg), ethyl 3-{[(4-aminophenyl)carbonyl](methyl)amino}propanoate (451 mg), sodium carbonate (191 mg) and sodium iodide (270 mg) in N,N-dimethylacetamide (10 mL) was stirred overnight at 80° C. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (25% ethyl acetate/hexane to 60% ethyl acetate/hexane). To the residue were added ethanol (2 mL), tetrahydrofuran (2 mL) and 1N lithium hydroxide (0.4 mL), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure, and water (10 mL) was added. The mixture was neutralized with 1N hydrochloric acid under ice-cooling, and stirred for 1 hr. The resulting precipitate was collected by filtration and dried to give the title compound (45 mg, 6%).

reactant | 3-(1-chloro-3-methylbutyl)-5-(4-fluoro-2-methylphenyl)-2-(methoxymethyl)furan | 487 mg | ClC(CC(C)C)C1=C(OC(=C1)C1=C(C=C(C=C1)F)C)COC | C18H22ClFO2
reactant | ethyl 3-{[(4-aminophenyl)carbonyl](methyl)amino}propanoate | 451 mg | NC1=CC=C(C=C1)C(=O)N(CCC(=O)OCC)C | C13H18N2O3
reactant | sodium carbonate | 191 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 270 mg | [I-].[Na+]
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 3-[{[4-({1-[5-(4-fluoro-2-methylphenyl)-2-(methoxymethyl)furan-3-yl]-3-methylbutyl}amino)phenyl]carbonyl}(methyl)amino]propanoic acid | 45 mg, 6% | FC1=CC(=C(C=C1)C1=CC(=C(O1)COC)C(CC(C)C)NC1=CC=C(C=C1)C(=O)N(CCC(=O)O)C)C | C29H35FN2O5
